data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][O:21]BO.[OH2:10]>>[H:20][OH2+:10].B(O)[O-:21] 10=20;20,21=21
CCC1CC[CH:20]=[C:21](C1=O)C(=O)C.CC[S-:10]>>CCC1CC[CH:20]([C-:21](C1=O)C(=O)C)[S:10]CC 10=20;20,21=21
[B-]([O+:21]=[C:20](C)C1=CC(=CC=C1)C#N)(F)(F)F.C(CO)[OH:10].CCOCC>>[B-]([O:21][C:20](C)(C1=CC(=CC=C1)C#N)[OH+:10]CCO)(F)(F)F.CCOCC 10=20;20,21=21
CC(C)(C)[C:11](=[O:10])[NH:12]O[Si](C)(C)C.C(F)(F)(F)S(=O)(=O)O[S:20](=O)(=[O:21])C(F)(F)F.CCN(CC)CC>>CC(C)(C)[C:11](=[NH+:12]O[Si](C)(C)C)[O:10][S:20](=O)(C(F)(F)F)([O-:21])OS(=O)(=O)C(F)(F)F.CCN(CC)CC 10,11=10,20;20,21=21;12=11
[H:20][O:21]C(=O)C.CC(C)N(CC1=CC=CC=C1)C(=O)C2C(C3=C(N2)CC45CC[NH+](C(C4(C3)O)CC6=CC=CC=C56)C)(C)[OH:10].O>>[H:20][OH+:10]C1(C(NC2=C1CC3(C4CC5=CC=CC=C5C3(C2)CC[NH+]4C)O)C(=O)N(CC6=CC=CC=C6)C(C)C)C.CC(=O)[O-:21].O 10=20;20,21=21
[H:20][Cl:21].CC1(C2CCC(C2)(C1(C3=C(C=C(C=C3)Cl)N)[O:10]C)C)C>>[H:20][O+:10](C)C1(C(C2CCC1(C2)C)(C)C)C3=C(C=C(C=C3)Cl)N.[Cl-:21] 10=20;20,21=21
[H:20][O+:21](C1=CC=CC=C1)[Si-](C)(C)(C)Cl.CC[N:10](CC)CC>>[H:20][N+:10](CC)(CC)CC.C[Si-](C)(C)([O:21]C1=CC=CC=C1)Cl 10=20;20,21=21
[H:20][O+:21]=C(CCC(=O)OC(=O)C)OCC.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCOC(=[O:21])CCC(=O)OC(=O)C 10=20;20,21=21
[H:20][OH2+:21].CCSC[CH:10]=[CH:11][O-:12]>>[H:20][CH:10](CSCC)[CH:11]=[O:12].[OH2:21] 10,11=10,20;20,21=21;12=11
[B-]([OH+:21][CH:20]1C(CC(=O)[N:10]1CC2=CC=CC=C2)O)(F)(F)F.CCOCC.CC#N>>[B-]([OH:21])(F)(F)F.C1C([CH:20]=[N+:10](C1=O)CC2=CC=CC=C2)O.CCOCC.CC#N 10=20;20,21=21
[H:20][Br:21].CC(C)CC[OH:10]>>[H:20][OH+:10]CCC(C)C.[Br-:21] 10=20;20,21=21
[H:20][C:21]1(CCCC1=O)[C:22](=[O:23])OC.C1CCC2=[N:10]CCCN2CC1>>[H:20][N+:10]1=C2CCCCCN2CCC1.CO[C:22](=[C:21]1CCCC1=O)[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][O+:21](C(CCCC)C(C(=O)[O-:10])OC1=CC=CC=C1)P(C2=CC=CC=C2)(C3=CC=CC=C3)(C4=CC=CC=C4)N(C(=O)OCC)NC(=O)OCC>>[H:20][O:10]C(=O)C(C(CCCC)[O:21]P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)N(C(=O)OCC)NC(=O)OCC)OC4=CC=CC=C4 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.COC(C1=CC=CC=C1)([NH2:10])O>>[H:20][NH2+:10]C(C1=CC=CC=C1)(O)OC.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][OH+:21][Na].COC1=C(C=CC(=C1)CC(C(C[O-:10])C(C2=CC(=C(C=C2)O)OC)O)C(=O)O[Na])O>>[H:20][O:10]CC(C(CC1=CC(=C(C=C1)O)OC)C(=O)O[Na])C(C2=CC(=C(C=C2)O)OC)O.[OH:21][Na] 10=20;20,21=21
[CH:11]1=[CH:10]OC(=C1)Br.[Br:20][Br:21]>>C1=C(O[CH:10]([CH+:11]1)[Br:20])Br.[Br-:21] 10,11=10,20;20,21=21
C(C[O-])[CH2:20][Br:21].[OH-:10]>>C([CH2:20][OH:10])C[O-].[Br-:21] 10=20;20,21=21
[Li][O+](C=C)[Si-:10](C)(C)(C)[Cl:11].CCCC.C=C>>[Li][O+](C=C)[Si:10](C)(C)C.[Cl-:11].CCCC.C=C 10,11=11
[H:20][CH2:21]C1=NC=CC=C1.[NH2-:10]>>[H:20][NH2:10].[CH2-:21]C1=NC=CC=C1 10=20;20,21=21
[H:20][N+:21](C)(C1CC2=C(CC1O)C(=CC=C2OC)OC)C3=CC=C(C=C3)OC.C(=O)([O-:10])[O-].[I-]>>[H:20][O:10]C(=O)[O-].C[N:21](C1CC2=C(CC1O)C(=CC=C2OC)OC)C3=CC=C(C=C3)OC.[I-] 10=20;20,21=21
CC(=C(C[CH:20](C(=O)OC)[Br:21])C(=O)OC)[O-:10].C1CCC2=[NH+]CCCN2CC1>>CC1=C(C[CH:20]([O:10]1)C(=O)OC)C(=O)OC.[Br-:21].C1CCC2=[NH+]CCCN2CC1 10=20;20,21=21
C[C:20](=[OH+:21])OC.[OH2:10].[Cl-]>>C[C:20]([OH2+:10])([OH:21])OC.[Cl-] 10=20;20,21=21
CC1=C(C=C(C(=C1)O[CH:10]=[C:11]([O-:12])OC(=O)C)[C:20](=[O:21])C)OC.CC(=O)O.[Na+]>>CC1=C(C=C2C(=C1)O[CH:10]([C:20]2(C)[O-:21])[C:11](=[O:12])OC(=O)C)OC.CC(=O)O.[Na+] 10,11=10,20;20,21=21;12=11
[H:20][OH2+:21].CC[O:10]C(CC(=O)O)(O)O>>[H:20][O+:10](CC)C(CC(=O)O)(O)O.[OH2:21] 10=20;20,21=21
CC1=CC=C(N1)C2=CC(=CC(=C2)C(=O)CCC(=O)C)C(=O)CC[C:20](=[O:21])C.[NH3:10].CC(=O)O.C(=O)[O-]>>CC1=CC=C(N1)C2=CC(=CC(=C2)C(=O)CCC(=O)C)C(=O)CC[C:20](C)([NH3+:10])[O-:21].CC(=O)O.C(=O)[O-] 10=20;20,21=21
[H:10][AlH-:11](O[CH:20]=[N+:21](C)CCC1=C(C=C(C(=C1)OC)OC)I)OC(C)(C)C>>[H:10][CH:20]([N:21](C)CCC1=C(C=C(C(=C1)OC)OC)I)O[AlH:11]OC(C)(C)C 10,11=10,20;20,21=21
CC1(CCC[CH+:20][C:11]1(C)[CH3:10])C>>[CH3:10][CH:20]1CCCC([C+:11]1C)(C)C 10,11=10,20
[H:20][CH:21]1C=C([N+:23](=[C:22]1C2=CC=CC=C2)CC3=CC=CC=C3)C4=CC=CC=C4.CC(=O)[O-:10].O>>C1=CC=C(C=C1)C[N:23]2C(=C[CH:21]=[C:22]2C3=CC=CC=C3)C4=CC=CC=C4.[H:20][O:10]C(=O)C.O 10=20;22,23=23;20,21=21,22
C[CH:20]=[CH:21][CH:22]=[O:23].O[O-:10]>>C[CH:20]([CH:21]=[CH:22][O-:23])[O:10]O 10=20;22,23=23;20,21=21,22
C[Si:20](C)(C)OCCC[Mg]Br.[F-:10]>>C[Si-:20](C)(C)(OCCC[Mg]Br)[F:10] 10=20,
[H:20][C:21](C)(C)[CH:22](CC)[Br:23].CC(C)(C)[O-:10]>>[H:20][O:10]C(C)(C)C.CC[CH:22]=[C:21](C)C.[Br-:23] 10=20;22,23=23;20,21=21,22
CNC(=O)[NH:10][CH:20](C1=CC=CC=C1)[OH2+:21].COC(=O)CC(=O)C1=CC=CC=C1.O>>CNC(=O)[NH+:10]=[CH:20]C1=CC=CC=C1.COC(=O)CC(=O)C1=CC=CC=C1.[OH2:21].O 10=20;20,21=21
CC1=CC[C:10]2(CCC[C:20]1([C:11]2(COP(OC)OC)[O-:12])[Br:21])C(=O)OC.[Li+]>>CC1=CC[C:10]2([C:20]1(CCC2)[C:11](=[O:12])COP(OC)OC)C(=O)OC.[Br-:21].[Li+] 10,11=10,20;20,21=21;12=11
[H:20][O:21]C(CO)C(C(C(C=C(C(=O)C)C(=O)C)O)O)O.[OH-:10].C(=O)(O)O.[Na+]>>[H:20][OH:10].CC(=O)C(=CC(C(C(C(CO)[O-:21])O)O)O)C(=O)C.C(=O)(O)O.[Na+] 10=20;20,21=21
[H:20][O:21]C(=O)NCC(=O)NC1=CC=C(C=C1I)Cl.C1CCN(CC1)C[C-:10]2C3=C(C=CC=C3)C4=CC=CC=C24>>[H:20][C:10]1(C2=C(C=CC=C2)C3=CC=CC=C31)CN4CCCCC4.C1=C(C=C(C(=C1)NC(=O)CNC(=O)[O-:21])I)Cl 10=20;20,21=21
